* C:\Users\EosinY\Documents\KiCad\Proj\ElectronicLoad-AnalogController\VoltMeas.asc
V1 Vcc 0 5
V2 N003 0 0
R1 N003 N006 15k
R2 N006 0 1k
R3 N005 N004 10k
R4 N005 N007 10k
V4 N007 0 1
R5 N001 0 10k
R6 N002 N001 10k
XU1 N006 N004 Vcc 0 N004 OP284
XU2 N005 N001 Vcc 0 N002 OP284
.dc V2 0 48 0.1
.lib ADI1.lib
.backanno
.end
